US05212187
N-[3-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]propyl]-N'-[4-[3-(piperidinomethyl)phenoxy]butyl]urea
Preparation is effected analogously to Example 63, using 0.42 g (1.0 mmol) of N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,3-propanediamine and the equimolar amounts of 1,1'-carbonyldiimidazole and 4-[3-(piperidinomethyl)phenoxy]butylamine as starting materials. Working up by chromatography analogously to Example 63 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int. [%])=605 ([M+H]+, 14), 229 (100); IR (KBr): 1631 cm-1 (C=O). For further analysis, a portion of the compound is converted into the O,O'-ditoluoyltartaric acid salt and recrystallised from isopropanol/ether; m.p.: 115° C. (isopropanol/ether).

reactant | N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,3-propanediamine | 1.0 mmol, 0.42 g | FC1=CC=C(CN(C2=NC=CC=C2)CCN(CCCN)C)C=C1 | C18H25FN4
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-[3-(piperidinomethyl)phenoxy]butylamine | N1(CCCCC1)CC=1C=C(OCCCCN)C=CC1 | C16H26N2O
product | N-[3-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]propyl]-N'-[4-[3-(piperidinomethyl)phenoxy]butyl]urea | FC1=CC=C(CN(C2=NC=CC=C2)CCN(C)CCCNC(=O)NCCCCOC2=CC(=CC=C2)CN2CCCCC2)C=C1 | C35H49FN6O2
